US08106043B2
tert-Butyl methyl(3-(7-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)propyl)carbamate:
A solution of N-methyl-3-(7-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)propan-1-amine (0.77 g, 2.88 mmol) in dry 1,4-dioxane (20 mL) was treated with triethylamine (1.214 mL, 8.64 mmol) followed by di-tert-butyl dicarbonate (0.736 mL, 3.17 mmol) at room temperature. The reaction stirred for 4 hours. The solvent was then evaporated, and the crude material was purified by flash column chromatography (1:1 EtOAc:hexanes) on silica gel to obtain the title product (1.02 g, 96%) as a yellow solid. 1H NMR (CDCl3) δ 7.97 (d, 1H, J=2.4 Hz), 7.88 (dd, 1H, J=2.7, 9.3 Hz), 6.56 (d, 1H, J=9.3 Hz), 3.79-3.76 (m, 2H), 3.41 (t, 2H, J=7.8 Hz), 3.31 (t, 2H, J=6.9 Hz), 3.04-3.00 (m, 2H), 2.88 (s, 3H), 1.92-1.82 (m, 2H), 1.46 (s, 9H); ESI-MS (m/z, %): 390 (M+Na, 56), 368 (MH+, 10), 312 (60), 268 (100).

reactant | N-methyl-3-(7-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)propan-1-amine | 2.88 mmol, 0.77 g | CNCCCN1C2=C(SCC1)C=C(C=C2)[N+](=O)[O-] | C12H17N3O2S
reactant | triethylamine | 8.64 mmol, 1.214 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 3.17 mmol, 0.736 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | tert-Butyl methyl(3-(7-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)propyl)carbamate | 1.02 g, 96% | CN(C(OC(C)(C)C)=O)CCCN1C2=C(SCC1)C=C(C=C2)[N+](=O)[O-] | C17H25N3O4S
